US06716878B1
STEP B: [4-(2(S)-tert-Butoxycarbonylamino-3,3-dimethylbutyryl)-phenyl]-carbamic Acid Benzyl Ester
A solution of [1(S)-(4-aminobenzoyl)-2,2-dimethylpropyl]-carbamic acid tert-butyl ester (67 mg, 0.22 mmol) and triethylamine (95 μL, 0.69 mmol) in DCM (3 mL) was cooled on an ice bath prior to addition of benzyl chloroformate (98 μL, 0.69 mmol). The reaction was warmed to room temperature and left for 15 hours. Examination by T.l.c. suggested minimal conversion to product hence pyridine (0.10 mL, 1.2 mmol) was added and the reaction left for a further 2 hours. Solvent was removed in vacuo and the residue taken up in ethyl acetate (20 mL). The organic phase was washed with 1M HCl (1×20 mL), brine (1×20 mL), 1M Na2CO3 (1×20 mL) and brine (1×20 mL, dried over MgSO4, filtered and the solvent removed in vacuo, giving a yellow solid. Purification by column chromatography (SiO2, 9:1 isohexane:ethyl acetate) afforded the title compound as a yellow solid (90 mg, 90%).

reactant | [1(S)-(4-aminobenzoyl)-2,2-dimethylpropyl]-carbamic acid tert-butyl ester | 0.22 mmol, 67 mg | C(C)(C)(C)OC(N[C@@H](C(C)(C)C)C(C1=CC=C(C=C1)N)=O)=O | C17H26N2O3
reactant | triethylamine | 0.69 mmol, 95 μL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.69 mmol, 98 μL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | pyridine | 1.2 mmol, 0.10 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | [4-(2(S)-tert-Butoxycarbonylamino-3,3-dimethylbutyryl)-phenyl]-carbamic Acid Benzyl Ester | 90 mg, 90% | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)C([C@H](C(C)(C)C)NC(=O)OC(C)(C)C)=O)=O | C25H32N2O5
